US07304161B2
164 mg (0.49 mmol) of 3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-heptyl)-hydrazide and 82 mg 3,5-dimethylbenzoyl chloride were dissolved in 10 mL CH2Cl2. 7 mL of 25% K2CO3 were added, and the reaction mixture was stirred at room temperature overnight. The reaction was monitored by TLC. The phases were separated, adding additional CH2Cl2 and/or water as needed to aid manipulation. The CH2Cl2 layer was dried and solvent was removed in vacuo to provide 240 mg of crude product. This material was purified by silica gel column chromatography, eluting with a step gradient of 5–20% ethyl acetate in hexane. The desired product eluted in the 15% ethyl acetate fraction, TLC Rf=0.62 (1:1 ethyl acetate:hexane), to yield 195 mg 3,5-dimethyl-benzoic acid N-(1-tert-butyl-heptyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide. 1H NMR (500 MHz, CDCl3) δ (ppm): 7.2 (s, NH), 7.05 (s, 2H), 7.03 (m, 1H), 7.01 (s, 1H), 6.83 (d, 1H), 6.25 (d, 1H), 4.67 (d, 1H), 3.81 (s, 3H), 2.28 (s, 6H), 1.79 (s, 3H), 1.55 (br m, 2H), 1.3 (br, 8H), 1.34+1.07 (s+s, 9H), 0.089 (br s, 3H).

reactant | 3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-heptyl)-hydrazide | 0.49 mmol, 164 mg | C(C)(C)(C)C(CCCCCC)NNC(C1=C(C(=CC=C1)OC)C)=O | C20H34N2O2
reactant | 3,5-dimethylbenzoyl chloride | 82 mg | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | K2CO3 | 7 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethyl-benzoic acid N-(1-tert-butyl-heptyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide | 195 mg | C(C)(C)(C)C(CCCCCC)N(NC(C1=C(C(=CC=C1)OC)C)=O)C(C1=CC(=CC(=C1)C)C)=O | C29H42N2O3
